data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_454004_1,[C:1]1(/[C:5](=[C:6](\[C:4]([H:19])([H:20])[H:21])[O:9][H:10])[N:8]([H:13])[H:14])([N:7]([H:11])[H:12])[C:2]([H:15])([H:16])[C:3]1([H:17])[H:18]>>[C:1](\[C:2]([C:3]([H:17])([H:18])[H:21])([H:15])[H:16])(=[C:5](\[C:6](=[C:4]([H:19])[H:20])[O:9][H:10])[N:8]([H:13])[H:14])[N:7]([H:11])[H:12],41.58505249998242
MR_71804_2,[C@:1]12([H:12])[C:2]([H:15])([H:16])[N:8]([C:4]([O:7][H:10])=[O:9])[C@@:5]1([N:6]([H:13])[H:14])[N:3]2[H:11]>>[C:1]1([C:4]([O:7][H:10])=[O:9])([H:12])[C:2]([H:15])([H:16])[N:8]=[C:5]([N:6]([H:13])[H:14])[N:3]1[H:11],30.23357749999974
MR_516487_1,[C:1]([C@@:2]([C:6]([O:8][C:3]([H:15])([H:16])[H:17])=[O:10])([O:9][H:11])[H:12])([C:4]([H:18])([H:19])[H:20])([C:5]([H:21])([H:22])[H:23])[N:7]([H:13])[H:14]>>[C:1]([C:4]([H:18])([H:19])[H:20])([C:5]([H:21])([H:22])[H:23])([C:6]([C@@:2]([O:8][C:3]([H:15])([H:16])[H:17])([O:9][H:11])[H:12])=[O:10])[N:7]([H:13])[H:14],56.47813749994072
MR_255222_0,[C:1]([C:2]([O:6][H:8])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([O:4][O:5][H:7])[H:9]>>[C:1]([C:3]([H:12])([H:13])[H:14])([O:4][C:2]([O:6][H:8])([H:10])[H:11])([O:5][H:7])[H:9],58.41209250001597
MR_191842_2,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[H:8])([N:4]([H:10])[H:11])(/[N:7]=[C:6](\[N:5]([H:12])[H:13])[H:14])[H:9]>>[C:1](\[N:4]([H:10])[H:11])(=[N:7]/[C:6]([N:3]([C:2]([H:15])([H:16])[H:17])[H:8])([N:5]([H:12])[H:13])[H:14])[H:9],54.705450000029
MR_450242_1,[C:1]([N:6]1[C:4](/[C:3](=[N:7]\[H:8])[H:10])([H:11])[C:2]([H:9])=[N:5]1)([H:12])([H:13])[H:14]>>[C:1](/[N:6]=[N:5]/[C:2](=[C:4]([C:3](=[N:7]\[H:8])/[H:10])\[H:11])[H:9])([H:12])([H:13])[H:14],22.3948474999942
MR_78760_1,[C:1](/[C:3]([C:4](/[N:5]=[N:2]/[H:7])([H:12])[H:13])=[N:6]/[H:8])([H:9])([H:10])[H:11]>>[C:1](/[C:3]([N:2]([N:5]=[C:4]([H:12])[H:13])[H:7])=[N:6]/[H:8])([H:9])([H:10])[H:11],54.69289999998935
MR_444422_0,[C:1]([C:5]([N:4]([O:7][H:9])[O:8][H:10])=[C:6]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:1]([C:5]1([O:8][H:10])[N:4]([O:7][H:9])[C:6]1([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13],38.10242750003624
MR_134981_1,[C:1]1([O:6][H:7])([H:9])[C:3]([H:12])([H:13])[C:2]([H:10])([H:11])[N:4]([H:8])[O:5]1>>[C:1]([C:3]([C:2]([N:4]([O:5][H:7])[H:8])([H:10])[H:11])([H:12])[H:13])(=[O:6])[H:9],36.4546124999876
MR_214958_1,[C:1](/[C:6](=[C:5]([C:4](=[C:2](/[N:3]([H:9])[H:10])[O:7][H:8])\[H:11])/[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]1([H:13])[C:2]([N:3]([H:9])[H:10])([O:7][H:8])[C:4]([H:11])=[C:5]1[H:12])([H:14])([H:15])[H:16],49.82663750000526
MR_674274_0,[C:1]([C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])(/[C:6]([C:4]([H:17])([H:18])[H:19])=[N:7]/[C:2]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:1](=[C:6]([C:4]([H:17])([H:18])[H:19])[N:7]([C:2]([H:11])([H:12])[H:13])[C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])([H:9])[H:10],46.68537249998195
MR_181335_0,[C:1]1([O:6][H:9])([H:11])[C:2]([C:3]([C:4]([O:7][H:10])=[O:8])([H:13])[H:14])([H:12])[O:5]1>>[C@@:1]1([O:6][H:9])([H:11])[C@:2]([C:3]([C:4]([O:7][H:10])=[O:8])([H:13])[H:14])([H:12])[O:5]1,59.59681250002106
MR_329608_0,[C:1]([N:2](/[C:4](=[N:7]\[H:10])[H:11])[N:5][N:6][N:3]([H:8])[H:9])([H:12])([H:13])[H:14]>>[C:1]([N:2][N:5][N:6]([N:3]([H:8])[H:9])/[C:4](=[N:7]\[H:10])[H:11])([H:12])([H:13])[H:14],51.88609249997768
MR_356330_1,[C:1]([C:3](=[C:2]([O:4][H:9])[O:5][H:8])[H:13])(/[N:6]=[N:7]\[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:3]([C:2](=[O:4])[O:5][H:8])([H:13])[N:6]1[N:7]([H:9])[H:10],44.787184999994736
MR_314980_2,[C:1]([N:2]([H:7])[H:8])(=[C:3]([H:9])[H:10])[O:4][O:5][H:6]>>[C:1]1([N:2]([H:7])[H:8])([O:5][H:6])[C:3]([H:9])([H:10])[O:4]1,26.893395000014948
MR_687040_1,[C@@:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])([N:6]([H:11])[H:12])(/[C:8](=[C:5](\[C:3]([H:19])([H:20])[H:21])[N:7]([H:13])[H:14])[H:15])[H:10]>>[C:1](\[N:6]([H:11])[H:12])(=[C:8](\[C@@:5]([C:3]([H:19])([H:20])[H:21])([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])[N:7]([H:13])[H:14])[H:15])[H:10],59.36903000002545
MR_626828_0,[C:1]1([C:3]([H:12])([H:13])[H:14])(/[C:7](=[N:8]\[H:10])[H:11])[C:2]([C:4]([H:15])([H:17])[H:18])([C:5]([H:16])([H:19])[H:20])[N:6]1[H:9]>>[C:1](\[C:2]([C:4]([H:15])([H:17])[H:18])([C:5]([H:16])([H:19])[H:20])/[C:7](=[N:8]\[H:10])[H:11])([C:3]([H:12])([H:13])[H:14])=[N:6]/[H:9],65.12383249997768
MR_302311_0,[C:1](/[C:4]([N:2]([C:3]([N:6]([H:11])[H:12])=[C:7]([H:17])[H:18])[N:5]([H:9])[H:10])=[N:8]\[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:4]([C:7](/[C:3](=[N:2]\[N:5]([H:9])[H:10])[N:6]([H:11])[H:12])([H:17])[H:18])=[N:8]\[H:13])([H:14])([H:15])[H:16],66.45664250000124
MR_692344_2,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:5][H:10])=[O:8])([O:4][H:9])[N:6]=[O:7]>>[C:1]([C:2]([H:11])([H:12])[H:13])(=[O:4])[N:6]([C:3]([O:5][H:10])=[O:8])[O:7][H:9],24.139297499977204
MR_202580_0,[C:1]([C:3]([H:14])([H:15])[H:16])(/[C:4]([C:2]([H:11])([H:12])[H:13])=[N:6]/[N:5]([H:7])[H:8])([H:9])[H:10]>>[C:1](\[C:3]([H:14])([H:15])[H:16])(=[C:4](\[C:2]([H:11])([H:12])[H:13])[N:6]([N:5]([H:7])[H:8])[H:10])[H:9],64.30243500001836
